US07375113B2
To a solution of 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (1 g) in acetone (10 mL) were added cesium carbonate (0.78 g), benzyl 3-bromopropyl ether (0.32 mL) and a catalytic amount of sodium iodide, and the mixture was stirred at room temperature for 2 days. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−2/1) to give 1-(3-benzyloxy-propyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (0.77 g). This material was dissolved in methanol (10 mL). To the solution was added 10% palladium-carbon powder (0.25 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate =1/1−1/2) to give the title compound (0.54 g).

reactant | 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 1 g | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)OC1=NNC2=NC=CC(=C21)CCC2=CC=C(C=C2)OC(C(C)(C)C)=O | C45H63N3O12
reactant | cesium carbonate | 0.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl 3-bromopropyl ether | 0.32 mL | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-(3-benzyloxy-propyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 0.77 g | C(C1=CC=CC=C1)OCCCN1N=C(C=2C1=NC=CC2CCC2=CC=C(C=C2)OC(C(C)(C)C)=O)O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C55H75N3O13
